US05256675
A mixture of 2-amino-5-(3-pyridylsulfinyl)thiazole (1.6 g) and 3-chloroperbenzoic acid (1.8 g) in a mixture of chloroform (150 ml), dichloromethane (50 ml) and N,N-dimethylformamide (5 ml) was stirred at room temperature for 3 hours. The reaction mixture was extracted with diluted hydrochloric acid and washed with ethyl acetate. The aqueous layer was adjusted to pH 8.5 using sodium bicarbonate and the mixture was extracted with a mixture of tetrahydrofuran and ethyl acetate (1:1). The organic layer was washed with water and dried over magnesium sulfate. The solvent was concentrated under reduced pressure and the residue was triturated with ethanol to give 2-amino-5-(3-pyridylsulfonyl)thiazole (0.30 g, yield: 17.5%). mp: 218°-220° C. (dec.) IR (Nujol): 3420, 3300, 1650, 1520, 1310 cm-1

reactant | 2-amino-5-(3-pyridylsulfinyl)thiazole | 1.6 g | NC=1SC(=CN1)S(=O)C=1C=NC=CC1 | C8H7N3OS2
reactant | 3-chloroperbenzoic acid | 1.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-5-(3-pyridylsulfonyl)thiazole | 0.30 g, yield: 17.5% | NC=1SC(=CN1)S(=O)(=O)C=1C=NC=CC1 | C8H7N3O2S2
